US05925771
cis-7-Methoxy-2.2-dimethyl-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane
7-Methoxy-2,2-dimethyl-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}-3-chromene (25 g) was dissolved in acetic acid (250 ml) at 60° C. Palladium on carbon (2.5 g, 10%, 50% wet) was added and the mixture hydrogenated at 1 atmosphere hydrogen pressure at 60° C. for 24 hours. The catalyst was filtered off and the filtrate evaporated to en oil. The oil was dissolved in toluene (100 ml) and washed with sodium hydroxide solution (4M) until alkaline. The aqueous phase was separated and extracted with another portion of toluene (20 ml). The combined organic phases was washed with water (2×50 ml) and evaporated to an oil. The oil was dissolved in methanol (100 ml) and crystallized by adding water (200 ml). The product was filtered off and dried.

reactant | 7-Methoxy-2,2-dimethyl-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}-3-chromene | 25 g | COC1=CC=C2C(=C(C(OC2=C1)(C)C)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C30H33NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium on carbon | 2.5 g | [Pd] | Pd
product | cis-7-Methoxy-2.2-dimethyl-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane | COC1=CC=C2[C@@H]([C@@H](C(OC2=C1)(C)C)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C30H35NO3
